* RS2 resposta individual vin1 (21101175)
.include lm741_level1.lib
RA1 in1 suma2 11.1111k
RA2 in2 suma2 33.3333k
RAR vee suma2 7.5Meg
RA3 va suma2 100k
XA2 0 suma2 vcc vee vout1 LM741_LEVEL1
RAF2 suma2 vout1 100k
RA4 in3 suma1 10k
XA1 0 suma1 vcc vee va LM741_LEVEL1
RAF1 suma1 va 25k
VIN1 in1 0 SINE(0 50m 1k)
VIN2 in2 0 0
VIN3 in3 0 0
RB3 in6 sumb2 10k
RB4 vb sumb2 90k
XB2 0 sumb2 vcc vee vout2 LM741_LEVEL1
RBF2 sumb2 vout2 90k
RB1 in4 sumb1 20k
RB2 in5 sumb1 10k
XB1 0 sumb1 vcc vee vb LM741_LEVEL1
RBF1 sumb1 vb 40k
VIN6 in6 0 0
VIN4 in4 0 0
VIN5 in5 0 0
XC1 vout1 ng1 vcc vee na LM741_LEVEL1
XC2 vout2 ng2 vcc vee nb LM741_LEVEL1
XC3 np nn vcc vee out LM741_LEVEL1
RC1 ng1 na 10k
RCG ng1 ng2 5k
RC2 ng2 nb 10k
RC3 na nn 10k
RC4 nb np 10k
RC5 nn out 25k
RC6 np 0 25k
RL out 0 10k
VCC vcc 0 15
VEE vee 0 -15
.tran 0 5m 0 5u
.meas TRAN vout_pk FIND V(out) AT=2.25m
.meas TRAN vout_tr FIND V(out) AT=2.75m
.meas TRAN g_out_vin1 PARAM (vout_pk-vout_tr)/0.1
.meas TRAN v1_pk FIND V(vout1) AT=2.25m
.meas TRAN v1_tr FIND V(vout1) AT=2.75m
.meas TRAN g_vout1_vin1 PARAM (v1_pk-v1_tr)/0.1
.meas TRAN v2_pk FIND V(vout2) AT=2.25m
.meas TRAN v2_tr FIND V(vout2) AT=2.75m
.meas TRAN g_vout2_vin1 PARAM (v2_pk-v2_tr)/0.1
.meas TRAN vout_dc AVG V(out)
.end
